US05597832
53b. 2-propyl-4-(((2-tetrahydropyranyl)oxy)methyl)oxazole-5-methanol
To a solution of 2-propyl-4-(((2-tetrahydropyranyl)oxy)methyl)oxazole-5-carboxylic acid, methyl ester (1.68 g, 5.94 mmol), from step 53a above, in 60 mL of methylene chloride cooled to -78° C. was added DIBAL (1.0M in hexane, 15 mmol). The reaction mixture was then stirred for 15 minutes at 0° C., and methanol (1.5 mL) was added carefully to quench the reaction. Saturated potassium sodium tartrate (50 mL) was added, and the mixtrue was stirred for 1 hour at room temperature. The layers were separated, and the aqueous layer was extracted with methylene chloride. The organic solutions were combined, dried over MgSO4 and concentrated. The residue was chromatographed on silica gel, eluting with 20% ethyl acetate in hexane to 3% methanol in ethyl acetate, to afford 1.27 g of the title compound as an oil. MS m/z: 256 (M+H)+. NMR (CDCl3) δ:4.72-4.51 (m, 5H), 3.85 (m, 1H), 3.55 (m, 1H), 2.97 (t, J=6 Hz, 1H), 2.71 (t, J=7.5 Hz, 2H), 1.90-1.50 (m, 8H), 0.99 (t, J=7.5 Hz, 3H).

reactant | 2-propyl-4-(((2-tetrahydropyranyl)oxy)methyl)oxazole-5-carboxylic acid, methyl ester | 5.94 mmol, 1.68 g | C(CC)C=1OC(=C(N1)COC1OCCCC1)C(=O)OC | C14H21NO5
reactant | DIBAL | 15 mmol, 1.0M | CC(C)C[AlH]CC(C)C
reactant | methanol | 1.5 mL | CO | CH4O
reactant | potassium sodium tartrate | 50 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-propyl-4-(((2-tetrahydropyranyl)oxy)methyl)oxazole-5-methanol | 1.27 g | C(CC)C=1OC(=C(N1)COC1OCCCC1)CO | C13H21NO4
